US05359067
1.06 g (6 mmol) of 5-methyl-4-(1,2,4-triazol-1-yl)-pyrimidin-2(1H)-one are dissolved in 30 ml of concentrated aqueous ammonia and stirred for 3 hours at reflux temperature. The cooled solution is evaporated to dryness, the residue is dissolved in hot water, the solution is cooled and three times the amount of acetone are added. The precipitate is filtered off by suction and is dried in vacuo. 0.73 g (97.3% of theory) of 5-methyl-cytosine is obtained as a colorless powder with melting point 271°-274° C.

reactant | 5-methyl-4-(1,2,4-triazol-1-yl)-pyrimidin-2(1H)-one | 6 mmol, 1.06 g | CC=1C(=NC(NC1)=O)N1N=CN=C1 | C7H7N5O
solvent | ammonia | 30 ml | N | H3N
product | 5-methyl-cytosine | 0.73 g, 97.3% | CC=1C(=NC(NC1)=O)N | C5H7N3O
